US05310743
b) (2R*,4S*)-2-Benzyl-1-t-butyloxycarbonyl-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine
618 mg (1.57 mmol) of (2R*,4S*)-2-benzyl-1-t-butyloxycarbonyl-N-(4-quinolylmethyl)-4-piperidinamine are reacted in analogy to Example 2h with 240 μl (1.72 mmol) of trifluoroacetic anhydride and 284 μl (2.04 mmol) of triethylamine. The title compound is obtained as white foam (572 mg, 75%). TLC: toluene/ethyl acetate (9:1) Rf =0.47, FD-MS: (M+H)+ =491.

reactant | (2R*,4S*)-2-benzyl-1-t-butyloxycarbonyl-N-(4-quinolylmethyl)-4-piperidinamine | 1.57 mmol, 618 mg | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)NCC1=CC=NC2=CC=CC=C12)C(=O)OC(C)(C)C | C27H33N3O2
reactant | trifluoroacetic anhydride | 1.72 mmol, 240 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 2.04 mmol, 284 μl | C(C)N(CC)CC | C6H15N
product | (2R*,4S*)-2-Benzyl-1-t-butyloxycarbonyl-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CCC1=CC=CC=C1)C(=O)OC(C)(C)C | C27H33F3N2O3
